US08119569B2
Methyl 3-(2-methoxyethoxy)-2-methyl-4-nitrobenzoate (31 g) was dissolved in anhydrous DMF (300 mL), and sodium thiomethoxide (purity: 95%, 8.92 g) was added at room temperature, followed by stirring for 45 minutes. To the reaction mixture, ethyl acetate (400 mL) was added and washed once with 1 N hydrochloric acid (150 mL) and washed twice with saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to obtain methyl 3-(2-methoxyethoxy)-2-methyl-4-(methylthio)benzoate (30 g) as a solid.

reactant | Methyl 3-(2-methoxyethoxy)-2-methyl-4-nitrobenzoate | 31 g | COCCOC=1C(=C(C(=O)OC)C=CC1[N+](=O)[O-])C | C12H15NO6
reactant | sodium thiomethoxide | 8.92 g | C[S-].[Na+]
reactant | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | methyl 3-(2-methoxyethoxy)-2-methyl-4-(methylthio)benzoate | 30 g | COCCOC=1C(=C(C(=O)OC)C=CC1SC)C | C13H18O4S
